US06949571B2
(394a) α-(2-Methoxypyridin-5-yl)-2-pyridinemethanol
50 ml of a tetrahydrofuran solution containing 3.00 g of 2-methoxy-5-bromopyridine was cooled to −78° C., followed by the dropwise addition of 10 ml of n-butyl lithium (1.6M hexane solution). After the completion of the dropwise addition, 1.70 g of picoline aldehyde was immediately added thereto, followed by stirring at −78° C. for 1 hour, to return the mixture slowly to room temperature. To the mixture was added a saturated aqueous solution of ammonium chloride, and then it was extracted with ethyl acetate. The ethyl acetate layer was washed with water and brine, and then dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel chromatography (ethyl acetate), to give 1.53 g of the title compound as a pale yellow solid.

reactant | 2-methoxy-5-bromopyridine | 3.00 g | COC1=NC=C(C=C1)Br | C6H6BrNO
reactant | n-butyl lithium | 1.6M, 10 ml | C(CCC)[Li]
reactant | picoline aldehyde | 1.70 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | α-(2-Methoxypyridin-5-yl)-2-pyridinemethanol | 1.53 g | COC1=NC=C(C=C1)C(O)C1=NC=CC=C1 | C12H12N2O2
